US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(1,2,4-triazol-3-ylthio)acetamide
Following a procedure similar to that described in Example 33, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-2-chloroacetamide (prepared as described in Preparation 1) and 3-mercapto-1,2,4-triazole as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a white powder, melting at 65°-67° C., in a 91% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-2-chloroacetamide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCl)=O | C17H24ClN3O2
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(1,2,4-triazol-3-ylthio)acetamide | 91% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CSC1=NNC=N1)=O | C19H26N6O2S
